US04880808
A mixture of 3.5 parts of 1,1'-(5-chloro-1-pentylidene)bis[4-fluorobenzene], 2.94 parts of 3-(aminocarbonyl)-N-(5-fluoro-2-methylphenyl)-1-piperazineacetamide, 2.1 parts of N,N-diethylethanamine, 0.1 parts of potassium iodide and 45 parts of N,N-dimethyformamide was stirred and heated for 48 hours at about 70° C. After 24 hours of stirring 2.12 parts of sodium carbonate were added. The reaction mixture was evaporated. The residue was taken up in water and the product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in acetonitrile, 2-propanol and a few drops of water. The salt was filtered off and dried over weekend at 100° C., yielding 1.70 parts of 3-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl] -N-(5-fluoro-2-methylphenyl)-1-piperazineacetamide monohydrochloride; mp. 217.8° C. (compound 3).

reactant | 1,1'-(5-chloro-1-pentylidene)bis[4-fluorobenzene] | ClCCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H17ClF2
reactant | 3-(aminocarbonyl)-N-(5-fluoro-2-methylphenyl)-1-piperazineacetamide | NC(=O)C1CN(CCN1)CC(=O)NC1=C(C=CC(=C1)F)C | C14H19FN4O2
reactant | potassium iodide | [I-].[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethyformamide | CN(C=O)C | C3H7NO
solvent | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
product | 3-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl] -N-(5-fluoro-2-methylphenyl)-1-piperazineacetamide monohydrochloride | Cl.NC(=O)C1CN(CCN1CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=CC(=C1)F)C | InChI=1S/C31H35F3N4O2.ClH/c1-21-5-10-26(34)18-28(21)36-30(39)20-37-16-17-38(29(19-37)31(35)40)15-3-2-4-27(22-6-11-24(32)12-7-22)23-8-13-25(33)14-9-23;/h5-14,18,27,29H,2-4,15-17,19-20H2,1H3,(H2,35,40)(H,36,39);1H
